US05859014
A mixture of 1-cyanocycloprop-1-ylmethanol (4.31 g, 44.4 mmol), obtained as in the proceeding paragraph, triethylamine (9.04 mL, 64.8 mmol) and methylene chloride (78 mL) was cooled under argon to between 0° and 5° C. and methanesulfonyl chloride (4.67 mL, 59.9 mmol) was added slowly. The mixture was cooled 3 hours with stirring at 0° to 5° C., then diluted with water and extracted with methylene chloride. The extract was washed with 5% sodium bicarbonate, dried (MgSO4) and concentrated to dryness to give 1-cyano-cycloprop-1-ylmethyl methanesulfonate.

reactant | 1-cyanocycloprop-1-ylmethanol | 44.4 mmol, 4.31 g | C(#N)C1(CC1)CO | C5H7NO
reactant | triethylamine | 64.8 mmol, 9.04 mL | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 78 mL | C(Cl)Cl | CH2Cl2
reactant | methanesulfonyl chloride | 59.9 mmol, 4.67 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | O | H2O
product | 1-cyano-cycloprop-1-ylmethyl methanesulfonate | CS(=O)(=O)OCC1(CC1)C#N | C6H9NO3S
